### ISSUE TITLE
simpGoal reports incomplete UsedSimps

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#2486]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`simpGoal` does not pass the `UsedSimps` from the hypotheses to the method that simplifies the target. As a result, `simp? at *` does not report simp theorems that were only used to simplify the hypotheses.

### Steps to Reproduce

Sort of minimal working example (based on the `simp_trace` test):

```lean
def h (x : Nat) : Sum (Nat × Nat) Nat := Sum.inl (x, x)

def bla (x : Nat) :=
  match h x with
  | Sum.inl (y, z) => y + z
  | Sum.inr _ => 0

example (h' : bla x = x) : x + x = x := by
  set_option tactic.simp.trace true in
  simp [bla, h] at *
  -- Expected: Try this: simp only [bla, h] at *
  -- Actual:   Try this: simp only at *
  exact h'
```

### Versions

Current master.

**Comment by semorrison** [comment]
Thanks, I agree this is a bug that needs fixing.
